US05620997
6-Dimethylamino-2-(2-pyridin-2-yl-ethyl)-isothiazolo [5,4-d]pyrimidin-3-one
Using the procedure of Example 20, 7.5 g (24.8 mmol) of 2-dimethylamino-4-mercapto-pyrimidine-5-carboxylic acid (2-pyridin-2-yl-ethyl)-amide were treated with 6.4 g (25.2 mmol) of iodine to give 4.21 g of the title compound after recrystallization from isopropanol, mp 134°-136° C.

reactant | 2-dimethylamino-4-mercapto-pyrimidine-5-carboxylic acid (2-pyridin-2-yl-ethyl)-amide | 24.8 mmol, 7.5 g | N1=C(C=CC=C1)CCNC(=O)C=1C(=NC(=NC1)N(C)C)S | C14H17N5OS
reactant | iodine | 25.2 mmol, 6.4 g | II | I2
product | 6-Dimethylamino-2-(2-pyridin-2-yl-ethyl)-isothiazolo [5,4-d]pyrimidin-3-one | 4.21 g | CN(C1=NC=C2C(=N1)SN(C2=O)CCC2=NC=CC=C2)C | C14H15N5OS
